US06486158B1
A 3M-solution of hydrazine (60 mmol) in ethanol is added to a solution of crude 3,6-difluoro-2-(2-pyridylcarbonyl)benzoic acid hydrochloride (20 mmol), and the mixture is stirred at room temperature for 5 hours. Precipitation yields 5,8-difluoro-4-(2-pyridyl)-1-phthalazinol.

reactant | hydrazine | 60 mmol | NN | H4N2
reactant | 3,6-difluoro-2-(2-pyridylcarbonyl)benzoic acid hydrochloride | 20 mmol | Cl.FC=1C(=C(C(=O)O)C(=CC1)F)C(=O)C1=NC=CC=C1
solvent | ethanol | C(C)O | C2H6O
product | 5,8-difluoro-4-(2-pyridyl)-1-phthalazinol | FC1=C2C(=NN=C(C2=C(C=C1)F)O)C1=NC=CC=C1 | C13H7F2N3O
